US06987116B2
A mixture of 4-(4-chloro-5-cyano-thieno[2,3-b]pyridin-2-yl)-butyric acid methyl ester (60 mg, 0.20 mmol), 3,4,5-trimethoxyaniline (92 mg, 0.50 mmol), and pyridine hydrochloride (10 mg, 0.09 mmol) in 10 mL of 2-ethoxyethanol is heated at reflux for 24 hours. The solution is cooled and the solvent is evaporated. The residue is purified by flash column chromatography eluting with 1:1 ethyl acetate:hexane to provide 62 mg of 4-[5-cyano-4-(3,4,5-trimethoxy-phenylamino)-thieno[2,3-b]pyridin-2-yl]-butyric acid methyl ester as a tan solid, mp 101-103° C.; 1H NMR (DMSO-d6) δ 1.94 (quintet, J=7 Hz, 2H), 2.41 (t, J=7 Hz, 2H), 2.88 (t, J=7 Hz, 2H), 3.60 (s, 3H), 3.67 (s, 3H), 3.75 (s, 6H), 6.60 (s, 2H), 7.28 (s, 1H), 8.40 (s, 1H), 9.62 (s, 1H); MS 442.1 (M+H)+.

reactant | 4-(4-chloro-5-cyano-thieno[2,3-b]pyridin-2-yl)-butyric acid methyl ester | 0.20 mmol, 60 mg | COC(CCCC1=CC=2C(=NC=C(C2Cl)C#N)S1)=O | C13H11ClN2O2S
reactant | 3,4,5-trimethoxyaniline | 0.50 mmol, 92 mg | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | pyridine hydrochloride | 0.09 mmol, 10 mg | Cl.N1=CC=CC=C1
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4-[5-cyano-4-(3,4,5-trimethoxy-phenylamino)-thieno[2,3-b]pyridin-2-yl]-butyric acid methyl ester | 62 mg | COC(CCCC1=CC=2C(=NC=C(C2NC2=CC(=C(C(=C2)OC)OC)OC)C#N)S1)=O | C22H23N3O5S
